.title kicad schematic

m9 out2 out1 vdd vdd mosfet_p
m11 out2 vi1 net-_m10-pad1_ net-_m10-pad1_ mosfet_n
m8 out1 vi2 net-_m10-pad1_ net-_m10-pad1_ mosfet_n
* u1 vdd vss vi1 vi2 vc1 vc2 out1 out2 port
m6 out2 vi2 net-_m1-pad3_ net-_m1-pad3_ mosfet_n
m1 out1 vi1 net-_m1-pad3_ net-_m1-pad3_ mosfet_n
m4 out1 out1 vdd vdd mosfet_p
m5 net-_m1-pad3_ vc1 bias bias mosfet_n
m10 net-_m10-pad1_ vc2 bias bias mosfet_n
m3 net-_m2-pad1_ net-_m2-pad2_ vss vss mosfet_n
m2 net-_m2-pad1_ net-_m2-pad2_ vdd vdd mosfet_p
m7 bias net-_m2-pad2_ vss vss mosfet_n
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
