.title kicad schematic

m10 /vo_n net-_m10-pad2_ /vdd /vdd mosfet_p
m12 /vo2 /vb /vdd /vdd mosfet_p
m9 net-_m11-pad2_ net-_m11-pad2_ /vss /vss mosfet_n
m5 net-_m1-pad2_ /vin1 net-_m5-pad3_ /vdd mosfet_p
* u1 /vdd /vss /vb /vin1 /vin2 /vo1 /vo2 /vo_n port
m6 net-_m1-pad2_ net-_m1-pad2_ /vss /vss mosfet_n
m8 net-_m11-pad2_ /vin2 net-_m5-pad3_ /vdd mosfet_p
m7 net-_m5-pad3_ /vb /vdd /vdd mosfet_p
m4 net-_m10-pad2_ net-_m10-pad2_ /vdd /vdd mosfet_p
m2 /vo1 /vb /vdd /vdd mosfet_p
m11 /vo_n net-_m11-pad2_ /vss /vss mosfet_n
m13 /vo2 net-_m11-pad2_ /vss /vss mosfet_n
m3 net-_m10-pad2_ net-_m1-pad2_ /vss /vss mosfet_n
m1 /vo1 net-_m1-pad2_ /vss /vss mosfet_n
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
