.title kicad schematic

.include naf_sub.sub
.include gilbert_sub.sub
.include sky130nm.lib
.option scale=1u
v7 /vb gnd  dc 300m
v9 /vss_1 gnd  dc -900m
v8 /vdd_1 gnd  dc 900m
* u3 vo2 plot_v1
* u2 vo1 plot_v1
x2 /vdd_1 /vss_1 /vb mul_o gnd vo1 vo2 unconnected-_x2-pad8_ naf_sub
v6 /vss gnd  dc -900m
x1 /vdd /vss /vin1 /vin2 /vc1 /vc2 unconnected-_x1-pad7_ mul_o gilbert_sub
* u1 mul_o plot_v1
v5 /vdd gnd  dc 900m
v3 /vc1 gnd sine(0 100m 50k 0 0)
v2 /vin2 gnd sine(0 -100m 5k 0 0)
v1 /vin1 gnd sine(0 100m 5k 0 0)
v4 /vc2 gnd sine(0 -100m 50k 0 0)
.tran 20ns 0.3ms


* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set color2 = orange
set xbrushwidth = 2.5
plot v(/vin1) v(/vc1)
plot v(mul_o)
plot v(mul_o) 0 
plot v(vo1,vo2)

.endc
.end
