.title CMOS ANN Implementation

.include naf_sub.sub
.include gilbert_sub.sub

.include sky130nm.lib
.option scale=1u


* u3 vo2 plot_v1
v8 /vdd_2 gnd  dc 900m
* u2 vo1 plot_v1
x2 /vdd_2 /vss_2 /vb mul_o mul1_o vo1 vo2 unconnected-_x2-pad8_ naf_sub
v7 /vb gnd  dc 300m
* u1 mul_o plot_v1
* u4 mul1_o plot_v1
v9 /vss_2 gnd  dc -900m
v5 /vdd gnd  dc 900m
v2 /vin2 gnd sine(0 -100m 5k 0 0)
v1 /vin1 gnd sine(0 100m 5k 0 0)
x1 /vdd /vss /vin1 /vin2 /vc1 /vc2 unconnected-_x1-pad7_ mul_o gilbert_sub
v4 /vc2 gnd sine(0 -100m 50k 0 0)
v3 /vc1 gnd sine(0 100m 50k 0 0)
v6 /vss gnd  dc -900m
v14 /vdd_1 gnd  dc 900m
x3 /vdd_1 /vss_1 /vin1_1 /vin2_1 /vc1_1 /vc2_1 unconnected-_x3-pad7_ mul1_o gilbert_sub
v15 /vss_1 gnd  dc -900m
v10 /vin1_1 gnd sine(0 150m 3k 0 0)
v11 /vin2_1 gnd sine(0 -150m 3k 0 0)
v12 /vc1_1 gnd  sine(0 150m 30k 0 0)
v13 /vc2_1 gnd  sine(0 -150m 30k 0 0)
.tran 20ns 0.3ms

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set color2 = orange
set xbrushwidth = 2.5
plot v(/vin1) v(/vc1)
plot v(/vin1_1) v(/vc1_1)
plot v(vo1,vo2)
plot v(mul_o)
plot v(mul1_o)
.endc
.end
